US06114390
(R)-N-[[4-[[[Bis-(methoxycarbonylmethyl)amino]carbonyl]methyl]phenyl]methyl]-N2 -(diphenylacetyl)-argininamide-diacetate
Prepared analogously to Example 4c) from (R)-N5 -(amino(nitroimino)-methyl]-N-[[4-[[[bis-(methoxycarbonylmethyl)amino]carbonyl]methyl]phenyl]methyl]-N2 -(diphenylacetyl)-ornithinamide by catalytic hydrogenation in the presence of palladium black and 80% aqueous acetic acid in a yield of 63% of theory.

reactant | (R)-N5 -(amino(nitroimino)-methyl]-N-[[4-[[[bis-(methoxycarbonylmethyl)amino]carbonyl]methyl]phenyl]methyl]-N2 -(diphenylacetyl)-ornithinamide | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCC1=CC=C(C=C1)CC(=O)N(CC(=O)OC)CC(=O)OC)=N[N+](=O)[O-] | C35H41N7O9
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium black | [Pd] | Pd
product | (R)-N-[[4-[[[Bis-(methoxycarbonylmethyl)amino]carbonyl]methyl]phenyl]methyl]-N2 -(diphenylacetyl)-argininamide diacetate | yield of 63% | COC(=O)CN(C(=O)CC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(N)=N)=O)CC(=O)OC.CC(=O)CC(=O)O | InChI=1S/C35H42N6O7.C4H6O3/c1-47-30(43)22-41(23-31(44)48-2)29(42)20-24-15-17-25(18-16-24)21-39-33(45)28(14-9-19-38-35(36)37)40-34(46)32(26-10-5-3-6-11-26)27-12-7-4-8-13-27;1-3(5)2-4(6)7/h3-8,10-13,15-18,28,32H,9,14,19-23H2,1-2H3,(H,39,45)(H,40,46)(H4,36,37,38);2H2,1H3,(H,6,7)/t28-;/m1./s1
